US04914200
After 156 mg of (3R,4R)-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-4-trimethylsilyloxyazetidin-2-one was dissolved in 1.6 ml of ethyl acetate, the mixture was cooled to -35° C. and thereto 0.03 ml (concentration: 1.84% by volume) of acetic acid, 0.5 ml of acetic anhydride and then 30 mg (concentration: 1.36% by weight) of 4-dimethylaminopyridine were added. The mixture was stirred for 21 hours at -35° C. After completion of the reaction and the same treatment as in Example 16, it was analyzed by means of high performance liquid chromatography used in Example 16 to find 83 mg of (3R,4R)-4-acetoxy-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one (yield: 59%).

reactant | (3R,4R)-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-4-trimethylsilyloxyazetidin-2-one | 156 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1O[Si](C)(C)C)=O | C14H31NO3Si2
reactant | acetic acid | 0.03 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 1.6 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (3R,4R)-4-acetoxy-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one | 83 mg, yield: 59% | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
